US08431695B2
Step 4: Preparation of 1-(trifluoroacetyl)piperazine
Ethyl trifluoroacetate (34.54 mL, 287.33 mmol) was added to a suspension of piperazine (25.0 g, 287.33 mmol) in THF (250 mL) at room temperature under nitrogen and stirred for 30 min and concentrated to remove solvent. The oily residue was taken up in ether and filtered and the filter cake was washed with ether. The filtrate was concentrated to give a clear oil (24.37 g, 47%). LC-MS [M+H]+=183.1, RT=1.07 min.

reactant | Ethyl trifluoroacetate | 287.33 mmol, 34.54 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | piperazine | 287.33 mmol, 25.0 g | N1CCNCC1 | C4H10N2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 1-(trifluoroacetyl)piperazine | 24.37 g, 47% | FC(C(=O)N1CCNCC1)(F)F | C6H9F3N2O
